US05994353
6-[N-(5-Chloro-2-cyclobutylmethoxybenzyl)-N-ethylamino]-3-cyanopyridazine
N-Ethyl 5-chloro-2-(cyclobutylmethoxy)benzylamine (2.1 g, 8.3 mmol) was coupled to the 3-chloro-5-cyanopyridazine (1.3 g, 8.25 mmol) with sodium hydrogen carbonate (0.71 g. 8.45 mmol) in NMP (10 ml) in a similar method to that of reference example 18. The title compound was purified by MPLC (dichloromethane, 1% MeOH/dichloromethane) (2.3 g, 78%) to give a solid.

reactant | N-Ethyl 5-chloro-2-(cyclobutylmethoxy)benzylamine | 8.3 mmol, 2.1 g | C(C)NCC1=C(C=CC(=C1)Cl)OCC1CCC1 | C14H20ClNO
reactant | 3-chloro-5-cyanopyridazine | 8.25 mmol, 1.3 g | ClC=1N=NC=C(C1)C#N | C5H2ClN3
reactant | sodium hydrogen carbonate | 8.45 mmol, 0.71 g | C(O)([O-])=O.[Na+]
reactant | NMP | 10 ml | CN1CCCC1=O | C5H9NO
product | 6-[N-(5-Chloro-2-cyclobutylmethoxybenzyl)-N-ethylamino]-3-cyanopyridazine | ClC=1C=CC(=C(CN(CC)C2=CC=C(N=N2)C#N)C1)OCC1CCC1 | C19H21ClN4O
